* Arm A oscillator 15: distributed RC from SPEF
* auto-generated by gen_rc_decks.py
.lib "/home/claude/w/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include "/home/claude/w/pdk/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice"
.param SUPPLY=1.8
Vdd VPWR 0 {SUPPLY}
Ven EN 0 PULSE(0 1.8 2n 50p 50p 1 2)

* --- Arm A oscillator 15: nand + 30 inverters + tap buffer ---
Xnand EN nand_B 0 0 VPWR VPWR nand_Y sky130_fd_sc_hd__nand2_1
Xi1 i1_A 0 0 VPWR VPWR i1_Y sky130_fd_sc_hd__inv_1
Xi2 i2_A 0 0 VPWR VPWR i2_Y sky130_fd_sc_hd__inv_1
Xi3 i3_A 0 0 VPWR VPWR i3_Y sky130_fd_sc_hd__inv_1
Xi4 i4_A 0 0 VPWR VPWR i4_Y sky130_fd_sc_hd__inv_1
Xi5 i5_A 0 0 VPWR VPWR i5_Y sky130_fd_sc_hd__inv_1
Xi6 i6_A 0 0 VPWR VPWR i6_Y sky130_fd_sc_hd__inv_1
Xi7 i7_A 0 0 VPWR VPWR i7_Y sky130_fd_sc_hd__inv_1
Xi8 i8_A 0 0 VPWR VPWR i8_Y sky130_fd_sc_hd__inv_1
Xi9 i9_A 0 0 VPWR VPWR i9_Y sky130_fd_sc_hd__inv_1
Xi10 i10_A 0 0 VPWR VPWR i10_Y sky130_fd_sc_hd__inv_1
Xi11 i11_A 0 0 VPWR VPWR i11_Y sky130_fd_sc_hd__inv_1
Xi12 i12_A 0 0 VPWR VPWR i12_Y sky130_fd_sc_hd__inv_1
Xi13 i13_A 0 0 VPWR VPWR i13_Y sky130_fd_sc_hd__inv_1
Xi14 i14_A 0 0 VPWR VPWR i14_Y sky130_fd_sc_hd__inv_1
Xi15 i15_A 0 0 VPWR VPWR i15_Y sky130_fd_sc_hd__inv_1
Xi16 i16_A 0 0 VPWR VPWR i16_Y sky130_fd_sc_hd__inv_1
Xi17 i17_A 0 0 VPWR VPWR i17_Y sky130_fd_sc_hd__inv_1
Xi18 i18_A 0 0 VPWR VPWR i18_Y sky130_fd_sc_hd__inv_1
Xi19 i19_A 0 0 VPWR VPWR i19_Y sky130_fd_sc_hd__inv_1
Xi20 i20_A 0 0 VPWR VPWR i20_Y sky130_fd_sc_hd__inv_1
Xi21 i21_A 0 0 VPWR VPWR i21_Y sky130_fd_sc_hd__inv_1
Xi22 i22_A 0 0 VPWR VPWR i22_Y sky130_fd_sc_hd__inv_1
Xi23 i23_A 0 0 VPWR VPWR i23_Y sky130_fd_sc_hd__inv_1
Xi24 i24_A 0 0 VPWR VPWR i24_Y sky130_fd_sc_hd__inv_1
Xi25 i25_A 0 0 VPWR VPWR i25_Y sky130_fd_sc_hd__inv_1
Xi26 i26_A 0 0 VPWR VPWR i26_Y sky130_fd_sc_hd__inv_1
Xi27 i27_A 0 0 VPWR VPWR i27_Y sky130_fd_sc_hd__inv_1
Xi28 i28_A 0 0 VPWR VPWR i28_Y sky130_fd_sc_hd__inv_1
Xi29 i29_A 0 0 VPWR VPWR i29_Y sky130_fd_sc_hd__inv_1
Xi30 i30_A 0 0 VPWR VPWR i30_Y sky130_fd_sc_hd__inv_1
Xbuf buf_A 0 0 VPWR VPWR buf_X sky130_fd_sc_hd__buf_1

Rn0_0 nand_Y i1_A 20.1268
Cg0 i1_A 0 3.653230e-17
Cg1 nand_Y 0 3.653230e-17
Cc0 EN i1_A 4.887590e-17
Cx0 i1_A 0 1.176280e-16
Cx1 i1_A 0 1.743520e-17
Rn1_1 i1_Y i2_A 19.4973
Cg2 i2_A 0 1.284900e-17
Cg3 i1_Y 0 1.284900e-17
Cc1 EN i2_A 9.572150e-17
Cx2 i2_A 0 5.337830e-17
Rn10_2 i10_Y i11_A 20.8277
Cg4 i11_A 0 4.764400e-17
Cg5 i10_Y 0 4.764400e-17
Cc2 i11_A i10_A 5.876220e-17
Cc3 i11_A nand_B 1.075340e-16
Cx3 i11_A 0 8.719010e-17
Rn11_3 i11_Y i12_A 29.8545
Cg6 i12_A 0 1.483850e-16
Cg7 i11_Y 0 1.483850e-16
Cc4 i12_A i13_A 2.808530e-17
Cc5 i12_A nand_B 3.524080e-17
Cx4 i12_A 0 0.000000e+00
Cx5 i12_A 0 2.808530e-17
Rn12_4 i12_Y i13_A 20.6982
Cg8 i13_A 0 4.777640e-17
Cg9 i12_Y 0 4.777640e-17
Cc6 i13_A i14_A 5.908370e-17
Cc7 i13_A i15_A 0.000000e+00
Cc8 i13_A s1417_16 7.329550e-17
Cx6 i13_A 0 8.127390e-17
Rn13_5 i13_Y i14_A 21.0643
Cg10 i14_A 0 5.614700e-17
Cg11 i13_Y 0 5.614700e-17
Cc9 i14_A i15_A 3.206120e-17
Cc10 i14_A s1417_16 1.885860e-16
Cx7 i14_A 0 3.113580e-17
Rn14_6 i14_Y i15_A 20.8277
Cg12 i15_A 0 4.392680e-17
Cg13 i14_Y 0 4.392680e-17
Cc11 i15_A s1392_12 2.629080e-17
Cc12 i15_A s1417_16 2.761040e-17
Cx8 i15_A 0 1.883000e-16
Rn15_7 i15_Y s1392_12 21.2911
Rn15_8 s1392_12 buf_A 11.8893
Rn15_9 s1392_12 i16_A 9.5813
Cg14 i16_A 0 1.371240e-17
Cg15 buf_A 0 1.020130e-16
Cg16 i15_Y 0 1.587660e-16
Cg17 s1392_12 0 2.744910e-16
Cc13 s1392_12 s1417_16 7.713670e-17
Cx9 i16_A 0 1.564850e-17
Cx10 buf_A 0 2.742880e-16
Cx11 s1392_12 0 1.269740e-17
Rn16_10 i16_Y i17_A 19.4973
Cg18 i17_A 0 3.355400e-17
Cg19 i16_Y 0 3.355400e-17
Cx12 i17_A 0 9.572150e-17
Rn17_11 i17_Y i18_A 19.9080
Cg20 i18_A 0 4.891210e-17
Cg21 i17_Y 0 4.891210e-17
Cx13 i18_A 0 1.395340e-16
Rn18_12 i18_Y i19_A 31.8009
Cg22 i19_A 0 2.988470e-16
Cg23 i18_Y 0 2.988470e-16
Cx14 i19_A 0 1.144130e-16
Cx15 i19_A 0 0.000000e+00
Cx16 i19_A 0 1.377430e-17
Rn19_13 i19_Y i20_A 20.3188
Cg24 i20_A 0 6.899770e-17
Cg25 i19_Y 0 6.899770e-17
Cx17 i20_A 0 1.020940e-16
Rn2_14 i2_Y i3_A 31.9438
Cg26 i3_A 0 1.578670e-16
Cg27 i2_Y 0 1.578670e-16
Cc14 i3_A i4_A 7.905360e-17
Cc15 i3_A i8_A 1.440380e-16
Cc16 EN i3_A 3.331740e-17
Cx18 i3_A 0 1.428500e-16
Cx19 i3_A 0 1.668560e-17
Cx20 i3_A 0 3.094400e-17
Rn20_15 i20_Y i21_A 19.9080
Cg28 i21_A 0 5.370910e-17
Cg29 i20_Y 0 5.370910e-17
Cx21 i21_A 0 7.712790e-17
Rn21_16 i21_Y i22_A 19.4973
Cg30 i22_A 0 4.541740e-17
Cg31 i21_Y 0 4.541740e-17
Cx22 i22_A 0 4.884020e-17
Rn22_17 i22_Y i23_A 22.1045
Cg32 i23_A 0 1.057080e-16
Cg33 i22_Y 0 1.057080e-16
Cc17 i23_A i27_A 1.231070e-16
Cc18 i23_A i28_A 8.830760e-18
Cx23 i23_A 0 2.849410e-16
Rn23_18 i23_Y i24_A 30.6313
Cg34 i24_A 0 1.340800e-16
Cg35 i23_Y 0 1.340800e-16
Cc19 i24_A i25_A 9.332970e-17
Cc20 i24_A i27_A 7.418750e-17
Cx24 i24_A 0 2.747940e-17
Cx25 i24_A 0 1.691150e-17
Cx26 i24_A 0 6.748150e-17
Rn24_19 i24_Y i25_A 32.9973
Cg36 i25_A 0 2.243830e-16
Cg37 i24_Y 0 2.243830e-16
Cx27 i25_A 0 9.250140e-18
Cx28 i25_A 0 1.361610e-17
Cx29 i25_A 0 5.198420e-18
Cx30 i25_A 0 2.907410e-16
Cx31 i25_A 0 1.361610e-17
Cx32 i25_A 0 8.221210e-17
Rn25_20 i25_Y i26_A 30.1580
Cg38 i26_A 0 8.979800e-17
Cg39 i25_Y 0 8.979800e-17
Cc21 i26_A i27_A 2.798270e-17
Cx33 i26_A 0 3.286860e-17
Cx34 i26_A 0 1.464740e-16
Cx35 i26_A 0 1.499040e-16
Cx36 i26_A 0 1.361610e-17
Rn26_21 i26_Y i27_A 22.0598
Cg40 i27_A 0 1.682530e-16
Cg41 i26_Y 0 1.682530e-16
Cc22 i27_A i28_A 3.872700e-17
Cx37 i27_A 0 4.164950e-17
Rn27_22 i27_Y i28_A 31.0420
Cg42 i28_A 0 1.688720e-16
Cg43 i27_Y 0 1.688720e-16
Cc23 i28_A i29_A 2.629080e-17
Cx38 i28_A 0 0.000000e+00
Cx39 i28_A 0 4.491470e-17
Cx40 i28_A 0 1.264390e-16
Rn28_23 i28_Y i29_A 21.1313
Cg44 i29_A 0 1.524520e-16
Cg45 i28_Y 0 1.524520e-16
Cc24 i29_A i30_A 2.609490e-17
Cx41 i29_A 0 1.611970e-17
Rn29_24 i29_Y i30_A 21.5420
Cg46 i30_A 0 1.060320e-16
Cg47 i29_Y 0 1.060320e-16
Cc25 i30_A nand_B 2.629080e-17
Cx42 i30_A 0 1.595320e-16
Rn3_25 i3_Y i4_A 19.9080
Cg48 i4_A 0 3.157350e-17
Cg49 i3_Y 0 3.157350e-17
Cx43 i4_A 0 2.918850e-17
Cx44 i4_A 0 7.327200e-17
Rn30_26 i30_Y nand_B 38.7518
Cg50 nand_B 0 6.619470e-16
Cg51 i30_Y 0 6.619470e-16
Cc26 nand_B i10_A 1.532250e-16
Cc27 nand_B i9_A 5.811350e-17
Cx45 nand_B 0 0.000000e+00
Cx46 nand_B 0 0.000000e+00
Cx47 nand_B 0 3.459840e-17
Cx48 nand_B 0 5.334330e-17
Cx49 nand_B 0 5.629950e-17
Rn4_27 i4_Y i5_A 19.4973
Cg52 i5_A 0 2.654100e-17
Cg53 i4_Y 0 2.654100e-17
Cx50 i5_A 0 4.884020e-17
Cx51 i5_A 0 4.884020e-17
Rn5_28 i5_Y i6_A 19.4973
Cg54 i6_A 0 1.515410e-17
Cg55 i5_Y 0 1.515410e-17
Cx52 i6_A 0 5.337830e-17
Cx53 i6_A 0 5.337830e-17
Rn6_29 i6_Y i7_A 31.7563
Cg56 i7_A 0 2.342210e-16
Cg57 i6_Y 0 2.342210e-16
Cx54 i7_A 0 0.000000e+00
Cx55 i7_A 0 7.409920e-17
Cx56 i7_A 0 6.712950e-17
Cx57 i7_A 0 1.647620e-16
Rn7_30 i7_Y i8_A 33.5152
Cg58 i8_A 0 2.955610e-16
Cg59 i7_Y 0 2.955610e-16
Cx58 i8_A 0 0.000000e+00
Cc28 EN i8_A 2.808530e-17
Cx59 i8_A 0 1.551590e-16
Cx60 i8_A 0 1.632880e-16
Cx61 i8_A 0 1.377430e-17
Rn8_31 i8_Y i9_A 31.8277
Cg60 i9_A 0 1.821650e-16
Cg61 i8_Y 0 1.821650e-16
Cc29 i9_A i10_A 5.476610e-17
Cx62 i9_A 0 7.602100e-17
Cx63 i9_A 0 6.191950e-17
Cx64 i9_A 0 7.860480e-17
Rn9_32 i9_Y i10_A 20.8991
Cg62 i10_A 0 4.566660e-17
Cg63 i9_Y 0 4.566660e-17
Cx65 i10_A 0 2.737660e-17
Rout_33 buf_X s1417_16 41.1616
Cg64 buf_X 0 1.569970e-15
Cg65 s1417_16 0 1.569970e-15
Cx66 s1417_16 0 0.000000e+00
Cx67 s1417_16 0 0.000000e+00
Cx68 s1417_16 0 1.370560e-15

.save v(buf_X)
.tran 1p 140n
.control
run
meas tran tp TRIG v(buf_X) VAL=0.9 RISE=5 TARG v(buf_X) VAL=0.9 RISE=25
let f = 20 / tp
print f
.endc
.end
